US07572820B2
C. 4-Chloro-2-(difluoromethyl)-1-{[5-(2,4-difluorophenyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-indole-5-carbonitrile
To a suspension of [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid (0.020 g, 0.070 mmol) in DCE (3 mL), under N2, was added EDCl (0.016 g, 0.081 mmol) and stirred at rt. After 5 min, 2,4-difluorobenzohydrazide (0.014 g, 0.081 mmol) was added and stirring was continued at rt. After 30 min, TsCl (0.016 g, 0.084 mmol) and P-BEMP (loading 2.2 mmol/g, 0.127 g, 0.28 mmol) were added and the mixture was heated at 100° C. for 20 min. The reaction was monitored by LC/MS. Subsequently, the mixture was heated at 120° C. for 30 min. Additional TsCl (0.020 g, 0.105 mmol) and P-BEMP (0.127 g, 0.28 mmol) were added and the mixture was heated at 120° C. another 20 min. Upon cooling, the resin was filtered off and washed with EtOAc. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography (10-70% EtOAc-hexanes gradient). The product was crystallized from CH2Cl2-hexanes to afford the title compound as a white solid (0.011 g, 38% yield): MS (ES) m/z 421 (M+1).

reactant | [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid | 0.070 mmol, 0.020 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)O)C(F)F | C12H7ClF2N2O2
reactant | EDCl | 0.081 mmol, 0.016 g | CCN=C=NCCCN(C)C.Cl
reactant | 2,4-difluorobenzohydrazide | 0.081 mmol, 0.014 g | FC1=C(C(=O)NN)C=CC(=C1)F | C7H6F2N2O
reactant | TsCl | 0.084 mmol, 0.016 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | TsCl | 0.105 mmol, 0.020 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-2-(difluoromethyl)-1-{[5-(2,4-difluorophenyl)-1,3,4-oxadiazol-2-yl]methyl}-1H-indole-5-carbonitrile | 0.011 g, 38% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC=1OC(=NN1)C1=C(C=C(C=C1)F)F)C(F)F | C19H9ClF4N4O
